US07601716B2
1-(2,5-Difluorobenzyl)-7-iodo-3,3-dimethyl-3,4-dihydro-1H-pyrido[2,3-b]pyrazin-2-one
7-Iodo-3,3-dimethyl-3,4-dihydro-1H-pyrido[2,3-b]pyrazin-2-one (237 mg) was reacted with 2,5-difluorobenzyl bromide as in General Procedure 1 to give the title compound as a white solid (98% yield). M.p. 198-201° C., LCMS: m/z=430.00 (M+H+), 1H-NMR (DMSO-d6, 400 MHz) δ 1.36 (s, 6H), 5.12 (s, 2H), 6.79-6.83 (m, 1H), 7.15-7.22 (m, 1H), 7.28-7.32 (m, 1H), 7.31 (s, 1H), 7.40 (s, 1H), 7.90 (s, 1H).

reactant | 7-Iodo-3,3-dimethyl-3,4-dihydro-1H-pyrido[2,3-b]pyrazin-2-one | 237 mg | IC1=CC2=C(NC(C(N2)=O)(C)C)N=C1 | C9H10IN3O
reactant | 2,5-difluorobenzyl bromide | FC1=C(CBr)C=C(C=C1)F | C7H5BrF2
product | 1-(2,5-Difluorobenzyl)-7-iodo-3,3-dimethyl-3,4-dihydro-1H-pyrido[2,3-b]pyrazin-2-one | 98% yield | FC1=C(CN2C3=C(NC(C2=O)(C)C)N=CC(=C3)I)C=C(C=C1)F | C16H14F2IN3O
